US05710319
Chlorobenzene (30 ml) is introduced into the reaction vessel at 60° C. and saturated with phosgene. A solution of 4-bromo-2-fluorobenzylamine (20.4 g, 0.10 mol) in chlorobenzene (40 ml) is added dropwise at 60° C. over 3 hours. At the same time, phosgene is passed in. Stirring of the batch is continued for 2 hours at 60° C., and the mixture is subsequently refluxed to remove the gases phosgene and hydrogen chloride. The batch is worked up by distillation. 15.9 g of 4-bromo-2-fluorobenzyl isocyanate (boiling point 109° C. at 4 mbar) are obtained. Yield: 69.1% of theory.

reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | 4-bromo-2-fluorobenzylamine | 0.10 mol, 20.4 g | BrC1=CC(=C(CN)C=C1)F | C7H7BrFN
solvent | chlorobenzene | 40 ml | ClC1=CC=CC=C1 | C6H5Cl
solvent | Chlorobenzene | 30 ml | ClC1=CC=CC=C1 | C6H5Cl
product | 4-bromo-2-fluorobenzyl isocyanate | 15.9 g, Yield: 69.1% | BrC1=CC(=C(CN=C=O)C=C1)F | C8H5BrFNO
